US05994312
(S)-N-(1,1-Dimethylethoxy)carbonyl-(O-methyl)serine
Sodium hydride (60% dispersion, 4.3 g, 0.107 mol) was added portionwise at 0° C. to a stirred solution of (S)-N-(1,1-dimethylethoxy)carbonylserine (10 g, 48.7 mmol) in anhydrous DMF (250 ml). A solution of iodomethane (6.1 ml, 0.1 mol) in anhydrous DMF (10 ml) was then added dropwise. The mixture was allowed to warm to RT and stirred overnight, then diluted with 1N hydrochloric acid to pH3 and the solution concentrated in vacuo to ca. 100 ml. The mixture was diluted with water (200 ml) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine (100 ml), dried (MgSO4) and evaporated in vacuo to provide the title compound as a yellow oil (7.48 g, 70%)

reactant | Sodium hydride | 0.107 mol, 4.3 g | [H-].[Na+]
reactant | (S)-N-(1,1-dimethylethoxy)carbonylserine | 48.7 mmol, 10 g | CC(C)(OC(=O)N[C@@H](CO)C(=O)O)C | C8H15NO5
reactant | iodomethane | 0.1 mol, 6.1 ml | IC | CH3I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | 1N | Cl | ClH
product | (S)-N-(1,1-Dimethylethoxy)carbonyl-(O-methyl)serine | 7.48 g, 70% | CC(C)(OC(=O)N[C@@H](COC)C(=O)O)C | C9H17NO5
